US08242175B2
A solution of 2-(4-methyl-piperazin-1-yl)-benzonitrile hydrochloride (2.16 g, 9.1 mmol) in H2O was brought to basic conditions with NH4OH and extracted with DCM. The organic phase was dried over Na2SO4, and evaporated in vacuo. The product obtained (1.77 g, 8.80 mmol) was dissolved in 30 ml of toluene and added under nitrogen atmosphere to a solution of 3 M methyl magnesium bromide in diethyl ether (8.79 ml, 26.38 mmol). The resulting suspension was heated under reflux for 4 hours. The reaction was cooled down to 0° C., acidified with 10% HCl, and then heated under reflux for 1 hour. The two phases were separated and the aqueous phase was extracted with AcOEt, then brought to basic conditions with NH4OH and extracted with DCM. The organic phase was dried over Na2SO4 and concentrated in vacuo to dryness. The crude product was purified by flash chromatography (DCM:MeOH:NH3 98:2:0.2) to obtain 1.62 g of 1-[2-(4-methyl-piperazin-1-yl)-phenyl]-ethanone.

reactant | 2-(4-methyl-piperazin-1-yl)-benzonitrile hydrochloride | 9.1 mmol, 2.16 g | Cl.CN1CCN(CC1)C1=C(C#N)C=CC=C1
reactant | NH4OH | [NH4+].[OH-]
reactant | methyl magnesium bromide | 3 M | C[Mg]Br
reactant | diethyl ether | 26.38 mmol, 8.79 ml | C(C)OCC | C4H10O
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(4-methyl-piperazin-1-yl)-phenyl]-ethanone | 1.62 g | CN1CCN(CC1)C1=C(C=CC=C1)C(C)=O | C13H18N2O
